US07125901B2
Step 1: ethyl 4-(hydroxymethyl)-1,3-thiazol-2-ylcarbamate
A mixed solution of ethyl 4-(chloromethyl)-1,3-thiazol-2-ylcarbamate (500 mg) in 1,4-dioxane (5 ml) and water (10 ml) was refluxed with stirring for 3.5 hours. After cooling, it was concentrated under reduced pressure. The mixture was partitioned between ethyl acetate and water. The organic phase was separated, washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (10 g) using a mixed solvent of hexane and ethyl acetate (2:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give colorless syrup (450 mg, 98.2%).

reactant | ethyl 4-(chloromethyl)-1,3-thiazol-2-ylcarbamate | 500 mg | ClCC=1N=C(SC1)NC(OCC)=O | C7H9ClN2O2S
reactant | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | ethyl 4-(hydroxymethyl)-1,3-thiazol-2-ylcarbamate | 450 mg, 98.2% | OCC=1N=C(SC1)NC(OCC)=O | C7H10N2O3S
